US04753674
In 50 ml of toluene were dissolved 1.3 g (0.012 mole) of 4-(aminomethyl)pyridine and 1.0 g (0.010 mole) of triethylamine. Thereto was added dropwise a solution of 3.0 g (0.010 mole) of 2-(4-chloro-3-trifluoromethylphenoxy)-butyroyl chloride in 30 ml of toluene at room temperature with stirring, and the mixture was treated according to the same procedure as in Synthesis Example 10. The resultant oily substance was subjected to silica gel column chromatography by eluting with toluene to obtain 1.6 g of N-(4-pyridylmethyl)-2-(4-chloro-3-trifluoromethylphenoxy)-butyramide showing nD19 1.5228 as pale yellow oil.

reactant | 4-(aminomethyl)pyridine | 0.012 mole, 1.3 g | NCC1=CC=NC=C1 | C6H8N2
reactant | triethylamine | 0.010 mole, 1.0 g | C(C)N(CC)CC | C6H15N
reactant | 2-(4-chloro-3-trifluoromethylphenoxy)-butyroyl chloride | 0.010 mole, 3.0 g | ClC1=C(C=C(OC(C(=O)Cl)CC)C=C1)C(F)(F)F | C11H9Cl2F3O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-pyridylmethyl)-2-(4-chloro-3-trifluoromethylphenoxy)-butyramide | 1.6 g | N1=CC=C(C=C1)CNC(C(CC)OC1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C17H16ClF3N2O2
